US05352654
Example H5: Preparation of 3-allylthiopyridin-2-ylsulfonamide
33.2 g (0.24 tool) of potassium carbonate as well as 1.32 g (0.005 tool) of 18-crown-6 and 15.8 g (0.17 tool) of 80 % allylmercaptan in 50 ml of acetonitrile are added to a solution, cooled to +5° C., of 17.62 g (0.1 mol) of 3-fluoropyridin-2-ylsulfonamide in 400 ml of acetonitrile.

reactant | potassium carbonate | 33.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6 | 1.32 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | allylmercaptan | 15.8 g | C(C=C)S | C3H6S
reactant | 3-fluoropyridin-2-ylsulfonamide | 0.1 mol, 17.62 g | FC=1C(=NC=CC1)S(=O)(=O)N | C5H5FN2O2S
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 400 ml | C(C)#N | C2H3N
product | 3-allylthiopyridin-2-ylsulfonamide | C(C=C)SC=1C(=NC=CC1)S(=O)(=O)N | C8H10N2O2S2
